US09447041B2
Preparation of (R/S)-Ethyl 2-(7-(Cyclopentyl-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate
To a solution of ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (50.0 mg, 0.193 mmol) and 4-(chloromethyl)-1-cyclopentyl-2-(trifluoromethyl)benzene (152.0 mg, 0.578 mmol) in DMF (3 mL) was added cesium carbonate (75.0 mg, 0.231 mmol). The mixture was stirred at room temperature overnight, filtered through Celite®, and concentrated under reduced pressure. The residue was purified by HPLC to give the title compound as a light pink oil (38.7 mg). LCMS m/z=486.5 [M+H]+.

reactant | ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.193 mmol, 50.0 mg | OC1=CC=2C3=C(NC2C=C1)C(CC3)CC(=O)OCC | C15H17NO3
reactant | 4-(chloromethyl)-1-cyclopentyl-2-(trifluoromethyl)benzene | 0.578 mmol, 152.0 mg | ClCC1=CC(=C(C=C1)C1CCCC1)C(F)(F)F | C13H14ClF3
reactant | cesium carbonate | 0.231 mmol, 75.0 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (R/S)-Ethyl 2-(7-(Cyclopentyl-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 38.7 mg | C1(CCCC1)C(C1=CC(=CC=C1)C(F)(F)F)OC1=CC=2C3=C(NC2C=C1)C(CC3)CC(=O)OCC | C28H30F3NO3
